US07956216B2
75A: 3-Trifluoromethanesulfonyloxy-benzoic acid methyl ester
Methyl 3-hydroxybenzoate (1.52 g, 10 mmol) was dissolved in dry CH2Cl2 (25 mL) along with 4-dimethylaminopyridine (244 mg, 2 mmol) and 2,4,6-collidine (1.6 mL, 1.45 g, 12 mmol). The solution was immersed in a dry ice/CH3CN bath, and stirred under nitrogen. Triflic anhydride (2 mL, 3.36 g, 12 mmol) was added by dropping funnel. The reaction mixture was permitted to reach room temperature and stirring was maintained for thirty minutes. The reaction mixture was quenched with citric acid (10%) and was extracted three times with CH2Cl2. The combined organic layers were washed with water and then brine, were dried over MgSO4 and were concentrated. The product was purified by flash chromatography on SiO2 using EtOAc/hexanes 3:97. A colourless oil was obtained (2.50 g, 88%). NMR 1H (ppm, CDCl3): 8.09 (d, J3=10.9 Hz, 1H), 7.92 (s, 1H), 7.57 (t, J3=9.2 Hz, 1H), 7.46 (d, J3=8.3 Hz, 1H), 3.94 (s, 3H).

reactant | Methyl 3-hydroxybenzoate | 10 mmol, 1.52 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2,4,6-collidine | 12 mmol, 1.6 mL, 1.45 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Triflic anhydride | 12 mmol, 2 mL, 3.36 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2 mmol, 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Trifluoromethanesulfonyloxy-benzoic acid methyl ester | COC(C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C9H7F3O5S
